US07138425B2
b) 2-[2-Methoxy-5-(6-methylbenzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-amino-4-methoxyphenyl)-6-methylbenzoxazole (58 mg, 0.23 mmol) and 1,2,4-benzenetricarboxylic anhydride (50 mg, 0.26 mmol) the title compound was obtained, 54 mg (55%). 1H NMR (DMSO) δ 8.31(dd, 1H) 8.16(m, 3H), 7.97(d, 1H), 7.50(d, 1H), 7.43(s, 1H), 7.32(d, 1H), 7.08(d, 1H), 3.73(s, 3H), 2.33(s, 3H). MS 427 m/z (M−H)−.

reactant | 2-(3-amino-4-methoxyphenyl)-6-methylbenzoxazole | 0.23 mmol, 58 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=CC(=C2)C | C15H14N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.26 mmol, 50 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methoxy-5-(6-methylbenzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid | COC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC(=C2)C)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C24H16N2O6
